US05578607
In a flask is placed 5,8-dimethyl-4-methoxy-6-nitroquinoline (1.16 g, 5.0 mmol) with stannous chloride dihydrate (5.64 g, 25 mmol) and ethanol (50 mL). The mixture is refluxed for 1 hour, diluted with water (100 mL) and concentrated ammonium hydroxide (30 mL), and extracted with chloroform (2×200 mL). The organic portion is dried over potassium carbonate, filtered and the solvents removed by rotary evaporation, yielding 4-amino-5,8-dimethyl-4-methoxyquinoline.

reactant | 5,8-dimethyl-4-methoxy-6-nitroquinoline | 5.0 mmol, 1.16 g | CC1=C2C(=CC=NC2=C(C=C1[N+](=O)[O-])C)OC | C12H12N2O3
reactant | ethanol | 50 mL | C(C)O | C2H6O
reactant | ammonium hydroxide | 30 mL | [OH-].[NH4+]
solvent | water | 100 mL | O | H2O
product | 4-amino-5,8-dimethyl-4-methoxyquinoline | NC1(CC=NC2=C(C=CC(=C12)C)C)OC | C12H16N2O
